US07566735B2
2-(4-bromophenyl)-N,N-dimethylacetamide
A solution of 4-bromophenylacetic acid (960 mg, 4.49 mmol) in dichloromethane (30 ml) was treated in one portion with solid 1,1′-carbonyldiimidazole (730 mg, 4.5 mmol) at 20° C. with stirring under argon. This mixture was allowed to stir at room temperature for 15 minutes. Triethylamine (0.63 ml) was then added followed by dimethylamine hydrochloride (367 mg, 4.5 mmol) and the stirring continued for 1 hour. Most of the solvent was removed under reduced pressure and the residue added to a 20 g isolute silica sep-pak column and eluted from 0-50% ethyl acetate in petroleum ether to give the title compound as a colourless solid (689 mg, 64%).

reactant | 4-bromophenylacetic acid | 4.49 mmol, 960 mg | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | 1,1′-carbonyldiimidazole | 4.5 mmol, 730 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Triethylamine | 0.63 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 4.5 mmol, 367 mg | Cl.CNC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4-bromophenyl)-N,N-dimethylacetamide | 689 mg, 64% | BrC1=CC=C(C=C1)CC(=O)N(C)C | C10H12BrNO
